US08222416B2
A mixture of 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-vinyl}-1H-pyrrolo[2,3-b]pyridine (900 mg, 2.12 mmol) and 10% palladium on activated carbon (270 mg) in methanol (300 mL) was heated at 50° C. under hydrogen (50 psi) for 16 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-ethyl}-1H-pyrrolo[2,3-b]pyridine (680 mg, 75%): LC/MS m/e calcd for C24H30N2O3S [M+H]+ 427.58, observed 427.4; 1H NMR (400 MHz, CD3OD) δ ppm 8.08-8.15 (m, 1H), 7.86-7.94 (m, 3H), 7.62 (d, J=8.3 Hz, 2H), 7.07 (dd, J=7.7, 4.9 Hz, 1H), 6.41 (s, 1H), 4.34 (t, J=7.8 Hz, 1H), 3.75 (t, J=5.8 Hz, 2H), 3.48 (t, J=5.7 Hz, 2H), 3.28 (q, J=7.0 Hz, 2H), 2.26-2.35 (m, 1H), 2.07-2.20 (m, 1H), 1.62-1.89 (m, 5H), 1.46-1.57 (m, 2H), 1.19-1.33 (m, 2H), 0.86 (t, J=6.9 Hz, 3H).

reactant | 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-vinyl}-1H-pyrrolo[2,3-b]pyridine | 2.12 mmol, 900 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)CCOCC)C1=CC=2C(=NC=CC2)N1 | C24H28N2O3S
catalyst | palladium on activated carbon | 270 mg | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-ethyl}-1H-pyrrolo[2,3-b]pyridine | 680 mg, 75% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)CCOCC)C1=CC=2C(=NC=CC2)N1 | C24H30N2O3S
